US04440779
Diethyl 4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate (107 g, 0.41 mol) is dissolved in dry DMF (200 ml) and added dropwise over 10 minutes to an ice-cooled suspension of hexanes-washed sodium hydride (0.41 mol) in dry DMF (400 ml). The resulting mixture was then stirred for one hour, then recooled in an ice bath and treated dropwise over 15 minutes with methyl iodide (30 ml, 0.49 mol). Stirring is continued for an additional thirty minutes, then the mixture is slowly poured into a separatory funnel containing ether (500 ml) and water (one liter). The ether layer was washed with water and saturated brine, then dried over sodium sulfate and the solvent removed in vacuo to give diethyl 1-methyl-4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate.

reactant | Diethyl 4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate | 0.41 mol, 107 g | CC=1C=C(OCC=2C=C(NC2C(=O)OCC)C(=O)OCC)C=CC1 | C18H21NO5
reactant | sodium hydride | 0.41 mol | [H-].[Na+]
reactant | methyl iodide | 0.49 mol, 30 ml | CI | CH3I
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | water | one liter | O | H2O
product | diethyl 1-methyl-4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)C(=O)OCC | C19H23NO5
